US07932271B2
[5-(t-Butyldiphenylsilyloxymethyl)-3-fluoropyridin-2-yl](2,5-difluorophenyl)methanol
At −78° C., a hexane solution (30.0 ml, 46.8 mmol) of n-butyl lithium and N,N,N′N′-tetramethylethylenediamine (7.06 ml, 46.8 mmol) were added sequentially to diethyl ether (250 ml). After stirring at −20° C. for 30 minutes, the reaction mixture was cooled to −78° C., and a diethyl ether (50 ml) solution of 3-(t-butyldiphenylsilyloxymethyl)-5-fluoropyridine (15.5 g, 42.5 mmol) was added thereto. The resulting mixture was stirred at the same temperature for 30 minutes. To the reaction mixture was added 2,5-difluorobenzaldehyde (6.04 g, 42.5 mmol). The resulting mixture was stirred for 2 hours. Water and then, a saturated aqueous solution of sodium bicarbonate were added to the reaction mixture. The resulting mixture was extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate and then, filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel chromatography. The fraction obtained from the hexane:ethyl acetate=9:1 eluate was concentrated under reduced pressure to give the title compound (17.0 g, 33.5 mmol, 79%) as a colorless oil.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-(t-butyldiphenylsilyloxymethyl)-5-fluoropyridine | 42.5 mmol, 15.5 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=NC=C(C1)F | C22H24FNOSi
reactant | 2,5-difluorobenzaldehyde | 42.5 mmol, 6.04 g | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | hexane | 46.8 mmol, 30.0 ml | CCCCCC | C6H14
product | [5-(t-Butyldiphenylsilyloxymethyl)-3-fluoropyridin-2-yl](2,5-difluorophenyl)methanol | 33.5 mmol, 17.0 g, 79% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C(C(=NC1)C(O)C1=C(C=CC(=C1)F)F)F | C29H28F3NO2Si
